### PR TITLE
Add alternative imperative example and proofs of equivalence with fun-op-sem/imp

### PR DESCRIPTION
**Pull request by adamstucci**

### CODE REVIEW

File: examples/fun-op-sem/imp/impScript.sml [hunk 1]
```diff
@@ -104,6 +104,25 @@ val cval_ind = prove(
 
 Theorem cval_ind[allow_rebind] = cval_ind
 
+Theorem seq_none:
```
Comment (mn200) [inline examples/fun-op-sem/imp/impScript.sml:107]: How about first proving the more general rewrite:
```
    cval (Seq c1 c2) s t = NONE <=> 
        cval c1 s t = NONE \/
        ?s' t'. cval c1 s t = SOME (s',t') /\
                  cval c2 s' t' = NONE
```
Your implication is an easy consequence of this, and the above is generally useful as a rewrite.

File: examples/fun-op-sem/imp/impScript.sml [hunk 2]
```diff
@@ -104,6 +104,25 @@ val cval_ind = prove(
...
+  cval (Seq c c') s t <> NONE ==> cval c s t <> NONE
+Proof
+  rw[] >>
+  fs[cval_def] >>
+  Cases_on `cval c s t` >>
+  fs[]
+QED
+
+Theorem skip_elim:
```
Comment (mn200) [inline examples/fun-op-sem/imp/impScript.sml:116]: Make this a simp.  (I.e., put the `[simp]` annotation after the theorem name.)

File: examples/fun-op-sem/listImp/listImpScript.sml [hunk 3]
```diff
@@ -0,0 +1,239 @@
...
+open arithmeticTheory;
+open impTheory;
+
+open optionTheory;
+
+val ect = BasicProvers.EVERY_CASE_TAC;
+
+val _ = new_theory "listImp";
+
+val _ = temp_type_abbrev("vname",``:string``);
```
Comment (mn200) [inline examples/fun-op-sem/listImp/listImpScript.sml:14]: This is better as 
```
Type vname[local] = “:string”
```

File: examples/fun-op-sem/listImp/listImpScript.sml [hunk 4]
```diff
@@ -0,0 +1,239 @@
...
+Definition imp_to_listImp_def:
+  (imp_to_listImp (SKIP:imp$com) = []) /\
+  (imp_to_listImp (Assign v a) = [((Assign v a):com)]) /\
+  (imp_to_listImp (Seq c1 c2) = (imp_to_listImp c1) ++ (imp_to_listImp c2)) /\
+  (imp_to_listImp (If b c1 c2) =
+    [(If b (imp_to_listImp c1) (imp_to_listImp c2))]) /\
+  (imp_to_listImp (While b c) = [(While b (imp_to_listImp c))])
+End
+
+Definition listImp_to_imp_def:
```
Comment (mn200) [inline examples/fun-op-sem/listImp/listImpScript.sml:52]: Should probably be a `simp`.

File: examples/fun-op-sem/listImp/listImpScript.sml [hunk 5]
```diff
@@ -0,0 +1,239 @@
...
+    | NONE => NONE
+    | SOME s' => pval t cs s')
+Termination
+  WF_REL_TAC `inv_image (measure I LEX measure I) (\r. case r of
+    | INR (t, cs, _) => (t, com1_size cs)
+    | INL (t, c, _) => (t, com_size c))` >>
+  rw[]
+End
+
+Definition imp_to_listImp_def:
```
Comment (mn200) [inline examples/fun-op-sem/listImp/listImpScript.sml:43]: Should also be a `simp`.  Also try removing some of the parentheses (what the pretty-printer does is a reasonable guide).

File: examples/fun-op-sem/listImp/listImpScript.sml [hunk 6]
```diff
@@ -0,0 +1,239 @@
...
+  !c h t. MEM c t ==> com_size c < com1_size (h::t)
+Proof
+  rw[] >>
+  simp[com_size_def] >>
+  Induct_on `t` >>
+  rw[] >>
+  fs[com_size_def]
+QED
+
+Theorem com_leq:
```
Comment (mn200) [inline examples/fun-op-sem/listImp/listImpScript.sml:74]: Proof should be `metis_tac[arithmeticTheory.LE_LT, com_lt]`

File: examples/fun-op-sem/listImp/listImpScript.sml [hunk 7]
```diff
@@ -0,0 +1,239 @@
...
+          rw[] >>
+          qexists `SUC k` >>
+          simp[pval_def]
+        ) >>
+        qexists `SUC t` >>
+        gvs[cval_def, pval_def]
+    )
+QED
+
+Theorem conc_lemma:
```
Comment (mn200) [inline examples/fun-op-sem/listImp/listImpScript.sml:185]: I'm surprised you don't have an outright equality between 
```
  cval (prog_to_imp (cs ++ ds)) = 
  cval (Seq (prog_to_imp cs) (prog_to_imp ds))
```

File: examples/fun-op-sem/imp/impScript.sml (hunk 1 above)
Comment (adamstucci) [reply examples/fun-op-sem/imp/impScript.sml:107]: Should this be a simp as well?

File: examples/fun-op-sem/listImp/listImpScript.sml (hunk 6 above)
Comment (adamstucci) [reply examples/fun-op-sem/listImp/listImpScript.sml:74]: This didn't end up working

```
metis: r[+0+7]+0+0+0+0+1+0+0+0!

Exception raised at folTools.FOL_FIND:
no solution found
Exception-
   HOL_ERR
     {message = "no solution found", origin_function = "FOL_FIND",
      origin_structure = "folTools"} raised
```

File: examples/fun-op-sem/imp/impScript.sml (hunk 1 above)
Comment (mn200) [reply examples/fun-op-sem/imp/impScript.sml:107]: That's harder to say; it may cause a blowup in the goal because the `cval c1` term is duplicated.  My feeling is that it probably shouldn't.

**Review by mn200 — APPROVED** [review]
